US06762205B1
180 mg of N-(4-tert-butyldimethylsilyloxybenzyl)-N-(4-cyanophenyl)-2-thiophenecarboxamide was dissolved in 3.5 ml of tetrahydrofuran, and 386 mg of tetrabutylammonium fluoride was added thereto under cooling with ice, followed by stirring at room temperature for 4 hours. After the reaction mixture was poured into a saturated aqueous solution of sodium chloride, the product was extracted with diethyl ether. After the extract was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting crude product was purified by TLC (using a 19:1 mixture of chloroform and methanol as the developing solvent) to obtain 47 mg of N-(4-cyanophenyl)-N-(4-hydroxybenzyl)-2-thiophenecarboxamide.

reactant | N-(4-tert-butyldimethylsilyloxybenzyl)-N-(4-cyanophenyl)-2-thiophenecarboxamide | 180 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CN(C(=O)C=2SC=CC2)C2=CC=C(C=C2)C#N)C=C1 | C25H28N2O2SSi
reactant | tetrabutylammonium fluoride | 386 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
product | N-(4-cyanophenyl)-N-(4-hydroxybenzyl)-2-thiophenecarboxamide | 47 mg | C(#N)C1=CC=C(C=C1)N(C(=O)C=1SC=CC1)CC1=CC=C(C=C1)O | C19H14N2O2S
